US04536505
A solution of 3.3 g of 2-hydroxymethyl-N-(3-pyridyl)indole in 33 ml of dry toluene under nitrogen is refluxed with 16.5 g of silver carbonate for 24 hours. Filtration through celite and evaporation yields an oil which is purified by preparative layer chromatography on silica with methylene chloride-ethyl acetate (8:2) as the eluent to yield N-(3-pyridyl)indole-2-carboxaldehyde, m.p. 101°-103° C.

reactant | 2-hydroxymethyl-N-(3-pyridyl)indole | 3.3 g | OCC=1N(C2=CC=CC=C2C1)C=1C=NC=CC1 | C14H12N2O
solvent | toluene | 33 ml | C1(=CC=CC=C1)C | C7H8
catalyst | silver carbonate | 16.5 g | C([O-])([O-])=O.[Ag+2]
product | N-(3-pyridyl)indole-2-carboxaldehyde | N1=CC(=CC=C1)N1C(=CC2=CC=CC=C12)C=O | C14H10N2O
